US08809326B2
Synthesis of 6-amino-7-cyano isoquinolin-1-one
A reaction vial was charged with 7-bromo-6-aminoisoquinolone hydrochloride (203 mg, 0.74 mmol), Zn(CN)2 (1.55 mmol) and Pd(Ph3P)4 (0.37 mmol) in 1.5 mL of dry dimethylacetamide. The vial was sealed and warmed to 100° C. for 20 minutes in a microwave. The reaction was recharged with additional Pd(Ph3P)4 (0.37 mmol) and warmed for another 20 minutes. The reaction was then diluted with 1 N aqueous NaOH and the resulting solids were isolated by filtration (615 mg). The desired product was present in both the solids as well as the filtrate. The solids were purified by suspension in dimethylacetamide, filtration to remove insoluble material and reverse phase HPLC chromatography of the filtrate to afford the desired product as a white solid (62 mg, 46%). The aqueous filtrate from above was neutralized with 1 N aqueous HCl and the resulting crude product was isolated by filtration (233 mg). This additional material was used without further purification.

reactant | 7-bromo-6-aminoisoquinolone hydrochloride | 0.74 mmol, 203 mg | Cl.BrC1=C(C=C2C=CNC(C2=C1)=O)N
reactant | dimethylacetamide | 1.5 mL | CC(=O)N(C)C | C4H9NO
solvent | NaOH | 1 N | [OH-].[Na+]
catalyst | Zn(CN)2 | 1.55 mmol | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(Ph3P)4 | 0.37 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(Ph3P)4 | 0.37 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-amino-7-cyano isoquinolin-1-one | NC=1C=C2C=CNC(C2=CC1C#N)=O | C10H7N3O
